US07745641B2
5-Aminoindole (100 mg, 0.757 mmol) was dissolved in acetonitrile (2 mL), and the solution was added with di-tert-butyldicarbonate (0.350 mL, 1.52 mmol), followed by stirring at room temperature for 1 hour. The reaction mixture was added with DMAP (1.0 mg, 0.0082 mmol), stirred at room temperature for 20 hours and then, the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography (hexane/ethyl acetate=95/5 to 90/10 to 80/20 to 70/30) to obtain 5-(tert-butoxycarbonylamino)-1-(tert-butoxycarbonyl)indole (236 mg, yield 94%).

reactant | 5-Aminoindole | 0.757 mmol, 100 mg | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | di-tert-butyldicarbonate | 1.52 mmol, 0.350 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | DMAP | 0.0082 mmol, 1.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-(tert-butoxycarbonylamino)-1-(tert-butoxycarbonyl)indole | 236 mg, yield 94% | C(C)(C)(C)OC(=O)NC=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C18H24N2O4
